Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I've been struggling with depression and anxiety heavily"
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ states he was strongly encouraged to come to the BI 
ED by his therapist at ___, whom he saw the day of 
presentation, due to his struggles with depression and anxiety 
over the past 6 months; he notes his therapist also mentioned 
"he might be at risk to harm himself."  He also notes he had 
called
the on-call counselor on both days over the weekend before his 
appointment with his therapist due to poor mood and SI.  
___ states that he has thoughts like "I wish I weren't 
here, life isn't worth living" on a daily basis now (frequency 
with which these thoughts occupy his mind increasing), and he 
also
notes he does at times want to kill himself but has never 
developed a plan to do so.  He continues to feel hopeless and 
constantly asks himself what the point is in living.  Mr. ___ 
also describes a recent incident in which he took apart a razor 
with the intent to cut himself (not kill himself), but he threw 
the blades away before doing so; could not describe why he 
stopped.  States he has a remote history of cutting/burning 
during high school.

Mr. ___ endorses feeling very depressed over the past 6 
months, with significant difficulties concentrating (notes this 
is affecting his ability to perform well in school, feels guilty 
because of this), poor motivation, low energy, spending "too 
much time in bed" but with broken sleep, not enjoying playing 
music on his guitar (feels it is like work now), poor appetite 
___ have
lost weight).  He notes that 6 weeks ago prior to his 
presentation he was started on Zoloft 25 mg daily and was 
instructed to increase the dose to 50 mg daily a few weeks ago, 
but couldn't because it caused nausea; he stopped taking this 
medication as he felt it was not helping him and actually felt 
it made him worse.

Of note, Mr. ___ notes he has a strong family history of 
bipolar disorder on both sides of his family, but most 
prominently on his father's side.  He states he has experienced 
"the opposite of depression" before (hasn't happened for a
while), where he was "getting lots of things done, lots of 
energy, very positive" - he remembers he would stay up late to 
do things, but cannot remember if he felt decreased need for 
sleep. Denies impulsive behaviors, risky behaviors, excessive 
spending, delusional thoughts/exaggeration of abilities at that 
time.

Mr. ___ also notes his anxiety has worsened over past 6 
months, particularly with regards to social situations; he says 
he is afraid to go outside sometimes, is avoiding interactions 
with people, notes being "freaked out being in crowds."  Also 
endorses panic attacks (nausea, cold, feeling out of control, 
not like himself/outside of himself, last 30 ___ hour) that 
have been happening on a daily basis for the past week; prior to 
this were occurring weekly."

In the ED, patient remained in good behavioral control, and 
received one dose of 0.5 mg of Ativan for anxiety. 

On interview upon admission, the patient reports worsening 
anxiety over the last 6 months, with resulting issues in 
performance at school. He reports he has been increasingly 
isolated, with no social supports in the ___ area. He has 
experienced the neurovegative symptoms discussed above. He  
reports that his
primary issue he feels is anxiety, with "freaking out in 
crowds", as well as occasional panic attacks ___ times weekly. 
He reports in these instances he feels dissociated as "though he 
is not there" with diaphoresis, and feelings of his limbs 
getting cold and his face getting hot. He states that he is also 
anxious about his success in school, and that others in his 
program try to
"outperform each other." He spends much time studying, however 
does not preform up to his own standards in classes which he is 
perplexed by, and troubled about. He also reports that he does 
not have any friends in his school.

He also states that he has been more depressed over the last 6 
months, however does not feel that this is much different from 
his baseline. He states that he has felt as though he was 
depressed since he was ___ years old, and that he is normally a 
"glass half empty kind of person" with periods of time where he
was more optimistic, confident, and looking "towards the path 
forward". He states that this most recent episode has lasted >6 
months, and he became more concerned with the development of 
suicidal ideation.  He went to see Dr. ___ who 
prescribed sertraline, which caused him to be dizzy and 
nauseous. He also states that he typically deals with feeling 
down by going
for long walks which occasionally improve his symptoms. He 
states that he used to use music as a coping mechanism, but now 
he finds this more of a sense of stress(he is majoring in 
___ and plays guitar). Prior to presentation, the 
patient reports evolving suicidal thinking with increased 
frequency and occasional passing thoughts about how he ___ do 
this ("I've noted my building is tall"), however has not had a 
plan or intent. He denies any suicidal thoughts at this time, 
and reports that he would feel comfortable telling staff if he 
feels unsafe on the unit.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY [Extracted from Dr. ___
___ ED Initial Psychiatry Consult note, reviewed with
patient, and updated as appropriate.]: 
-Prior diagnoses: Depression (MDD?), anxiety
-Hospitalizations: Denies
-Psychiatrist: Dr. ___, last saw 1 month ago
-Therapist: ___ sees every 2 weeks (saw day of
presentation), at ___
-Medication trials: Nothing before Zoloft, Ativan
-Suicide attempts: Denies
-Self-injurious behavior: Cutting/burning during high school
-Harm to others: Denies
-Trauma: Denies
-Access to weapons: Denies

PAST MEDICAL HISTORY:
-Asthma
-Denies history of head trauma, seizure

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: Father's side of family with several
members with bipolar disorder (great uncle, grandfather,
great-grandmother); mother's side with several members with
bipolar disorder, however are not blood related; half of cousins
on father's side with serious depression or anxiety; suspects
father ___ have depression
-Substance Use Disorders: Denies
-Suicide Attempts/Completed Suicides: Denies to his knowledge
 
Physical Exam:
Physical Exam on Admission:
Temp:98.3 BP:122/78 HR:64   SpO2:98 

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb Patient with multiple reversal errors stating
___, ___
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "Don't assume that other people always have ti
batter than you"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: man appearing stated age, well groomed, wearing
hospital gown, in no apparent distress
-Behavior: Sitting in chair, appropriate eye contact, no
psychomotor agitation or retardation noted. 
-Attitude: Cooperative, engaged, friendly
-Mood: "yesterday hopeful, this morning, just worse, anxious
about this situation" 
-Affect: Mood-congruent, full range, appropriate to situation,
tearful at times when talking about his past history of
depression and discussing his admission onto the unit
-Speech: Normal rate, volume, and tone, well-spoken.
-Thought process: Mostly Linear, coherent, at times recursive to
his concerns about school and success, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI at this time. 
---Delusions: No evidence of paranoia. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli.
-Insight: Limited
-Judgment: Poor

Physical Exam At Discharge:
VITAL SIGNS:
  BP:106/64 HR:62 temp:98 resp:14  O2 sat:98% 

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Neurological:
      Station and gait: normal station and gait
      Tone and strength: moves all extremities anti-gravity
      Appearance: young man who appears his stated age,
wearing casual clothing
      Behavior: fully engaged during the conversation, feet 
tapping during the entire interview, he apologized and stated 
that he had a lot of ___ up energy" 
     Mood and Affect: mood "I have a lot of energy", affect was 
congruent with mood, WNL
     Thought process: logical, linear, and goal directed 
     Thought Content: 
---Safety: Denies SI/HI at this time
---Delusions: No evidence of paranoia 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH
     Judgment and Insight: limited insight and limited judgment
     Cognition:
  Alertness and level of consciousness: patient was alert
throughout the interview
    Orientation: patient was oriented to himself, his
environment, and time 
    Attention: able to recite 5 digit spans forward and 4 digit 
spans backward
    Memory: ___ registration and ___ recall
    Calculations: 7 quarters = "$1.75"
    Abstraction: Interprets "don't judge a book by it's over" as 
"there is more to people than what you first encounter"
    Fund of knowledge: not formally assessed 
    Speech: normal rhythm, rate, and volume 
    Language: fluent ___

Mr. ___ met with treatment team on several occasions on ___: 
he reported that he is doing better. His sleep improved. He 
shared that he felt bored over the weekend. While he still had 
some anxiety about future, he said that he is determined to 
continue with treatment:"...I wanna keep tackling 
this...(mood)". Mr. ___ asked to be discharged. He would like to 
continue with intensive outpatient treatment. He thought that he 
needs "to work on self improvement".
Pt was provided with psychoeducation about Mind-Body techniques 
to help him coping with anxiety. Pt expressed interest in 
learning more about that. Progressive muscle relaxation was 
practiced with pt. He found technique quite helpful. He was 
encouraged to practice it.
 
Pertinent Results:
___ 09:02PM BLOOD WBC-4.9 RBC-5.04 Hgb-14.6 Hct-43.2 MCV-86 
MCH-29.0 MCHC-33.8 RDW-11.8 RDWSD-36.5 Plt ___
___ 09:02PM BLOOD Neuts-46.9 ___ Monos-8.3 Eos-2.8 
Baso-0.4 Im ___ AbsNeut-2.31 AbsLymp-2.04 AbsMono-0.41 
AbsEos-0.14 AbsBaso-0.02
___ 09:02PM BLOOD Glucose-89 UreaN-12 Creat-0.8 Na-141 
K-3.9 Cl-100 HCO3-27 AnGap-14
___ 09:02PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 04:28AM BLOOD ALT-34 AST-20 AlkPhos-53 TotBili-0.7
___ 04:28AM BLOOD Cholest-194
___ 04:28AM BLOOD VitB12-815
___ 04:28AM BLOOD %HbA1c-5.1 eAG-100
___ 04:28AM BLOOD Triglyc-72 HDL-52 CHOL/HD-3.7 LDLcalc-128
___ 04:28AM BLOOD TSH-2.2
___ 04:28AM BLOOD Free T4-1.5
___ 04:28AM BLOOD 25VitD-___. LEGAL & SAFETY: 
Patient admitted to Deaconess 4 on a ___, upon admission, 
signed a conditional voluntary form, which was accepted. He was 
placed on 15 minute checks status on admission, was increased to 
5 ___ checks overnight on ___, and returned  to 15 ___ check on 
___, he remained unit restricted throughout his . He did not 
require physical or chemical restraints.

2. PSYCHIATRIC:

#) Major Depressive Disorder, Anxiety: 
Mr. ___ is a ___ year old man ___ year student @___) with 
history of depression and anxiety who self-presented to the ED 
at the strong suggestion of his therapist at ___ due to 
worsening depression over the past 6 months and evolving SI in 
the setting of school stressors and social isolation. On 
admission, Mr. ___ endorsed severe depression with 
neurovegetative symptoms and anxiety; he noted his poor 
concentration was limiting his ability to do well in school; 
also with increasing SI but no plan.  Mental status exam on 
admission was significant for mood-congruent affect with 
tearfulness, denying suicidal ideation; no major abnormalities 
of thought process or content noted. Serum tox and Utox 
negative; remainder of labs were unremarkable. The patient has 
recently stoped sertraline a couple days prior to admittions due 
to side effects of dizziness and nausea. During the admission, 
we discussed diagnosis and treatment options. Pt was provided 
with preliminary information about Lamotrigine. After discussion 
with family, pt opted to try another antidepressant. Pt and 
family believe that multiple family members benefited from 
___.

Mr. ___ was started on escitalopram 5 mg daily as he has a 
strong family history of anxiety and depression, and multiple 
family members have responded well to this medication. he was 
also given lorazepam 0.5 mg BID as needed which he found 
improved his level of anxiety and agitation throughout the day. 
Despite these medication changes, Mr. ___ continued to 
demonstrate worsening depression and mood lability, as well as 
persistent anxiety and sleeping difficulties. He was 
subsequently started on 0.5 mg of risperidone at bedtime. The 
patient tolerated all new medications well, without significant 
side effects. Given a remote family history of bipolar disorder, 
the patient was monitored for signs of mania, which were not 
present during the admission. The patient reported improvement 
of his suicidal thinking and mood during his stay on the unit. 
He does continue to report significant feelings of worthlessness 
as well as anxiety and occasional panic attacks. Patient and 
family were in favor of discharge to partial hospitalization 
program as well as continued psychiatric follow up with his 
psychiatrist. 

3. SUBSTANCE USE DISORDERS:
Mr. ___ does not have any substance use disorders, and 
therefore did not require any counseling or treatment in this 
regard.

4. MEDICAL

Mr. ___ was medically cleared in the ED; no acute  medical 
issues prevented admission to ___ 4.  Additionally, Mr. ___ 
has no chronic medical issues requiring attention. 

5. PSYCHOSOCIAL
#) As part of individual therapy, Pt was provided with 
psychoeducation about Mind-Body techniques to help him coping 
with anxiety. Pt expressed interest in learning more about that. 
Progressive muscle relaxation was practiced with pt. He found 
technique quite helpful. He was encouraged to continue 
practicing it. Pt also shared that he did mindfulness exercises 
(meditation) before. He was encouraged to resume practicing it.

#) GROUPS/MILIEU: 

Mr. ___  was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
occupational therapy and social work groups focus on teaching 
patients various coping skills. Mr. ___ often attended these 
groups with appropriate participation.  Mr. ___ was visible 
on the milieu and often sought reassurance and attention from 
care providers and staff.  As the patient himself noted, he 
primarily connected with the younger patients on the unit.

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:

Mr. ___ gave verbal and written permission for the team to 
contact his outpatient psychiatrist, Dr. ___ and 
therapist, ___. 
They was provided with a summary of Mr. ___ presentation to 
the ___ ED/Deac 4 and an update of her progress since 
admission on Deac 4, and they provided collateral information 
and treatment recommendations.

Several family meetings were held with pt's parents: they came 
from ___. With patient's permission, parents were involved 
at all stages of treatment: diagnosis, choice of medication and 
planning for the outpatient treatment.
Parents were provided with psychoeducation and resources: ___, 
___ Emergency Services Team. Parents were also reminded that 
they can reach out to pt's outpatient providers if parents have 
concerns.

Mr. ___ gave verbal and written permission for the team to 
speak with his Parents. They  were also given an update on Mr. 
___ progress while admitted and discharge plan. They 
attended multiple family meetings and allied with the team in 
creating a  treatment plan. 

6. INFORMED CONSENT: 
Medication: Lexapro (escitalopram)
---Benefits: Treatment of depression, anxeity
---Adverse effects: Decreased appetite, nausea, diarrhea, 
constipation, dry mouth, insomnia, tremors, headache, dizziness, 
sexual dysfunction (decreased sexual desire, anorgasmia), 
sweating, bruising, hyponatremia/SIADH (rare, in older 
patients), seizures (rare), weight gain (unusual), sedation 
(unusual), activation of suicidal ideation (rare)

Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

Medication: Risperdal (risperidone)
---Benefits: Treatment of obsessive thoughts, compulsive 
behaviors, and anxiety
---Adverse effects: Risk of developing diabetes/dyslipidemia, 
EPS, Tardive Dyskinesia (rare), hyperprolactinemia, QTc 
prolongation, drowsiness, nausea, constipation, weight gain, 
orthostatic hypotension (rare)

Mr. ___ was informed of alternative treatments, the 
consequences of no treatment, and the expected duration of 
treatment. He appeared to appreciate the information conveyed in 
the consent process by asking appropriate questions, which were 
answered by the treatment team, and expressing understanding of 
the potential risks and benefits (see above).  Prior to starting 
treatment, the team also discussed the patient's right to decide 
whether to take this medication as well as the importance of the 
patient's actively participating in the treatment.  Mr. ___ 
understood the above and consented to begin the medication.

7. RISK ASSESSMENT
On presentation, Mr. ___ was evaluated and felt to be at an 
increased risk of harm to himself.  Mr. ___ static risk 
factors noted at that time include history of self injurious 
behavior, family history of mental illness, male gender, 
Caucasian ethnicity.  The modifiable risk factors identified 
were as such: suicidal ideation without plan or intent, 
medication non-compliance, hopelessness, anxiety/panic attacks, 
lack of purpose, decreased self-esteem, limited coping skills.  
These modifiable risk factors were addressed with acute 
stabilization in a safe environment on a locked inpatient unit, 
psychopharmacologic adjustments, psychotherapeutic interventions 
(OT groups, SW groups, individual therapy meetings with 
psychiatrists), and presence on a social milieu environment.  
Mr. ___ is being discharged with many protective factors, 
including help-seeking behavior, future oriented viewpoint, 
strong social supports, no prior suicide attempts, no chronic 
substance use.  Overall, based on the totality of our assessment 
at this time, Mr. ___ is not at an acutely elevated risk of 
harm to self nor danger to others. 

Our prognosis of this patient is good to fair.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of 
breath/wheezing 
2. Sertraline 12.5 mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY:PRN anxiety/insomnia 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of 
breath/wheezing  
2. Escitalopram Oxalate 5 mg PO/NG DAILY
3. LORazepam 0.5 mg PO DAILY:PRN anxiety/insomnia  
4. RisperiDONE 0.5 mg PO QHS 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___